US06982348B2
To a solution of 5-chloronaphthalene-1-carboxylic acid (176 mg, 0.849 mmol) in N,N-dimethylformamide (5 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (163 mg, 0.849 mmol) and 1-hydroxybenzotriazole monohydrate (130 mg, 0.849 mmol), and (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(2,2,3,3,3-pentafluoropropyl)phenyl]-1-propanol (318 mg, 0.809 mmol) was finally added. The mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, and dried over anhydrous magnesium sulfate. The mixturewas filtered using a glass filter filled with silica gel, and the filtrate was washed with ethyl actate and concentrated under reduced pressure. The residue was purified by recrystallization (hexane-ethyl acetate) to give 5-chloro-N-{(1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]ethyl}-1-naphthamide (330 mg, 70%) as colorless crystals.

reactant | 5-chloronaphthalene-1-carboxylic acid | 0.849 mmol, 176 mg | ClC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7ClO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.849 mmol, 163 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.849 mmol, 130 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(2,2,3,3,3-pentafluoropropyl)phenyl]-1-propanol | 0.809 mmol, 318 mg | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C18H17ClF5NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-N-{(1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]ethyl}-1-naphthamide | 330 mg, 70% | ClC1=C2C=CC=C(C2=CC=C1)C(=O)NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C29H22Cl2F5NO2
